US05912246
A mixture of 2-amino-5-trifluoromethylpyridine (Fluorochem; 3.19 g), 1,3-dichloroacetone (Aldrich; 3.00 g), and dimethoxyethane (Aldrich; 15 mL) is stirred at room temperature for 4 days. The resulting solid is collected and washed with several milliliters of dimethoxyethane. The solid is then taken up in ethanol (30 mL) and the mixture is heated at 80° C. for 2.5 h, at which time diisopropylethylamine (Aldrich: 3.5 mL) is added. After stirring with heating an additional 3.5 h, the mixture is cooled and the solvent is removed under reduced pressure. The residue is partitioned between dichloromethane and aq. sodium bicarbonate. The organic layers are filtered through sodium sulfate and concentrated; the residue is chromatographed on silica gel using methanol/dichloromethane (1/99) to give 3.33 g of 2-(chloromethyl)-6-(trifluoromethyl) imidazo[1,2-a]pyridine. 1H NMR (CDCl3) δ4.78, 7.36, 7.69, 7.73, 8.48.

reactant | 2-amino-5-trifluoromethylpyridine | 3.19 g | NC1=NC=C(C=C1)C(F)(F)F | C6H5F3N2
reactant | 1,3-dichloroacetone | 3.00 g | ClCC(=O)CCl | C3H4Cl2O
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
product | 2-(chloromethyl)-6-(trifluoromethyl) imidazo[1,2-a]pyridine | 3.33 g | ClCC=1N=C2N(C=C(C=C2)C(F)(F)F)C1 | C9H6ClF3N2
